US06762180B1
(17) 4-benzylamino-nitrobenzene
Prepared from 1-fluoro-4-nitrobenzene and benzylamine

reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 4-benzylamino-nitrobenzene | C(C1=CC=CC=C1)NC1=CC=C(C=C1)[N+](=O)[O-] | C13H12N2O2
